Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Baclofen / Copaxone / 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Arm pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History Obtained From: Patient

Ms. ___ is a ___ woman with MS ___ by ___
at ___), thalassemia, who presented to the ___ ED with left 
arm
pain and is admitted for inpatient cardiac stress test. 

The patient was cooking in her kitchen last evening when she
developed a sudden pain that started in her left arm and 
radiated
down to her left chest and jaw. The pain was associated with
nausea and left hand paresthesias. She did not experience
diaphoresis, dyspnea, palpitations, or a feeling of impending
doom. She has not had any cough, hemoptysis, or history of DVT.
She has never experienced exertional chest pain in the past. She
has no family history of heard disease and has never used
tobacco. 

Of note, note by patient's PCP in ___ refers to similar
symptoms of arm aching associated with diaphoresis. There was
consideration that the sensation was related to volatile blood
pressures and her amlodipine was increased from 2.5mg to 5mg.
RPR, TSH, and ___ were negative. 
  
In the ED, initial vitals: 96.0, 122, 165/98, 18, 99% RA   

- Labs notable for: normal CBC, neg HCG, HCO3 18 & Agap 19, Cr
1.1, TropT < 0.01 x2, coags WNL, UA benign. 
   
- Imaging notable for:  
CTA CHEST- No e/o PE or intrathoracic process
___ Left - No DVT 
 
- Pt given:  Nitroglycerin with improvement in pain :  

On the floor, the patient reports that her symptoms have 
resolved
after receiving nitroglycerin. She is not experiencing any 
active
chest pain, palpitations, dyspnea, diaphoresis, or nausea. She
has swelling in her legs b/l for multiple months ___ which she
attributes to an injury to her posterior knee.    

 
Past Medical History:
multiple sclerosis, thought to be primary vs secondary 
progressive, c/b orthostatic hypotension, with past lesions in 
her cervical and thoracic cord, as well as visual field defect 
and lower extremity paresthesias; treated with copaxone x ___, 
which was recently stopped due to injection site reactions, now 
awaiting initiation of avonex
thalassemia minor
cervical and lumbar spondylosis

 
Social History:
___
Family History:
No MS. ___ has ___. No neurologic disease. No family 
history of cardiac disease

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: ___ 0502 Temp: 97.9 PO BP: 169/100 L Lying HR: 80
RR: 17 O2 sat: 100% O2 delivery: RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, trace edema of b/l ___  

Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.  

DISCHARGE PHYSICAL EXAM: Unchanged
 
Pertinent Results:
PERTINENT LABS:

___ 08:55PM BLOOD WBC-8.2 RBC-5.26* Hgb-11.5 Hct-37.2 
MCV-71* MCH-21.9* MCHC-30.9* RDW-14.5 RDWSD-35.7 Plt ___
___ 08:55PM BLOOD Neuts-60.8 ___ Monos-11.3 
Eos-0.7* Baso-0.7 Im ___ AbsNeut-4.98 AbsLymp-2.16 
AbsMono-0.93* AbsEos-0.06 AbsBaso-0.06
___ 09:21PM BLOOD ___ PTT-31.8 ___
___ 08:55PM BLOOD Glucose-125* UreaN-10 Creat-1.1 Na-139 
K-3.8 Cl-102 HCO3-18* AnGap-19*
___ 08:55PM BLOOD cTropnT-<0.01
___ 01:00AM BLOOD cTropnT-<0.01
___ 09:03AM BLOOD Calcium-9.9 Phos-4.2 Mg-1.9
___ 08:55PM BLOOD HCG-<5

STUDIES:
___ ___: No evidence of deep venous thrombosis in the left 
lower extremity veins. 
 
CTA CHEST ___:  
1.  No evidence of pulmonary embolism or aortic abnormality. 
2.  No acute process within the chest. 

NUCLEAR PHARM STRESS ___:
IMPRESSION: 1. Normal myocardial perfusion. 2. Normal left 
ventricular cavity size and systolic function. 

 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman with MS, thalassemia, HTN who 
presented with L arm pain which began suddenly and associated 
with radiation to L chest and jaw as well as L hand 
paresthesias. Similar symptoms had happened in ___. Symptoms 
resolved after getting nitroglycerin, but unclear correlation. 
Troponins negative x2. EKG with lateral ST depressions similar 
to prior in ___, but slightly worse. Pharmacologic stress 
test with normal perfusion. Additionally noted to have anion-gap 
metabolic acidosis on initial labs, which resolved on repeat. No 
clear etiology for acidosis; no ingestions.

TRANSITIONAL ISSUES
=================
[ ] PCP ___ scheduled in 1 week.
[ ] Reports volatile BPs for quite some time, however BPs 
reasonably controlled this admission. Continued on 
prior-to-admission meds.

This patient was prescribed, or continued on, an opioid pain 
medication at the time of discharge (please see the attached 
medication list for details). As part of our safe opioid 
prescribing process, all patients are provided with an opioid 
risks and treatment resource education sheet and encouraged to 
discuss this therapy with their outpatient providers to 
determine if opioid pain medication is still indicated.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. eszopiclone 3 mg oral QHS:PRN 
2. carisoprodol 350 mg oral Q6H 
3. amLODIPine 10 mg PO DAILY 
4. flaxseed oil 1,000 mg oral DAILY 
5. Ascorbic Acid ___ mg PO BID 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Ascorbic Acid ___ mg PO BID  
3.  carisoprodol 350 mg oral Q6H  
4.  eszopiclone 3 mg oral QHS:PRN  
5.  flaxseed oil 1,000 mg oral DAILY  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical Spondylosis, Non-cardiac chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were having arm 
and neck pain.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- We checked cardiac labs, which were all normal.
- We did a stress test, which was reassuring against any cardiac 
etiologies.

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___